US07696231B2
c) Preparation of 4-(Hexyloxy)-N-(4-{[2-(5-iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)hydrazino]carbonyl}phenyl)benzamide
Into a suspension of 5-iodo-1H-indole-2,3-dione in acetic acid was added 4-(hexyloxy)-N-[4-(hydrazinocarbonyl)phenyl]-benzamide. After stirring at 100° C., the reaction mixture was cooled to rt and a yellow solid precipitated out. Filtration on a fritté, washing with AcOH, water and drying under vacuo at 60° C. overnight gave 110 mg of the title compound (90%) as a yellow powder in 91.1% purity by HPLC (Rt: 5.86, gradient of 8 min, MaxPlot detection between 230 and 400 nm).

reactant | 5-iodo-1H-indole-2,3-dione | IC=1C=C2C(C(NC2=CC1)=O)=O | C8H4INO2
reactant | 4-(hexyloxy)-N-[4-(hydrazinocarbonyl)phenyl]-benzamide | C(CCCCC)OC1=CC=C(C(=O)NC2=CC=C(C=C2)C(=O)NN)C=C1 | C20H25N3O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-(Hexyloxy)-N-(4-{[2-(5-iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)hydrazino]carbonyl}phenyl)benzamide | 110 mg, 90% | C(CCCCC)OC1=CC=C(C(=O)NC2=CC=C(C=C2)C(=O)NN=C2C(NC3=CC=C(C=C23)I)=O)C=C1 | C28H27IN4O4
